US06908919B2
A solution of 2-chloropyrazine (26.12 g, 228.0 mmol) and cyclobutylamine (40.00 mL, 468.5 mmol) was heated in a pressure reaction flask with stirring to 110° C. for 16 hours. The brown reaction was allowed to cool to room temperature and was diluted with water (750 mL). The aqueous solution was extracted with ethyl acetate (2×250 mL). The combined organic solutions were washed with water (1×250 mL), saturated NaHCO3 (1×250 mL) and brine (2×250 mL). The organic solution was dried (MgSO4), filtered, and concentrated. The crude product was purified by MPLC (20% ethyl acetate-40% ethyl acetate/hexanes) to afford N-cyclobutylaminopyrazine (EX-115A) in 93% yield: 1H NMR (300 MHz, DMSO) δ 7.97-7.96 (m, 1H) 7.82-7.79 (m, 2H), 5.12 (br s, 1H), 430-4.18 (m, 1H) 2.51-2.39 (m, 2H), 1.97-1.73 (m, 4H); 13C NMR (75 MHz, DMSO) δ 149.3, 137.6, 128.3, 126.9, 42.2, 26.7, 10.7; HRMS (ES) calcd for C8H12N3 150.1031, found 150.0992.

reactant | 2-chloropyrazine | 228.0 mmol, 26.12 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | cyclobutylamine | 468.5 mmol, 40.00 mL | C1(CCC1)N | C4H9N
solvent | water | 750 mL | O | H2O
product | N-cyclobutylaminopyrazine | 93% yield | C1(CCC1)NN1CC=NC=C1 | C8H13N3
